* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7042
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7042 +IN -IN V+ V- OUT
X_U1 +IN -IN V+ V- OUT NJU7042_s
.ends NJU7042
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | output
*                      | | | | |
.subckt NJU7042_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 4 {RD1}
RD2 12 4 {RD2}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 {VS}
VD 3 18 {VD}

.MODEL DMOD1 D(T_MEASURED = 25 IS = 1.79E-31)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL = 1 VTO = -4.89E-01
+ KP = 4.01E-05 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL = 1 VTO = -4.89E-01
+ KP = 4.01E-05 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 1.51E+02)
*
.PARAM
+ C1   = 1.86E-11
+ C2   = 9.67E-11
+ CS   = 0.00E+00
+ GCM  = 9.60E-09
+ GA   = 3.04E-05
+ GB   = 37.19
+ GC   = 571.5335726
+ ITL  = 2.90E-06
+ RS   = 6.90E+07
+ RD1  = 32928.61
+ RD2  = 32928.61
+ RC   = 1.75E-03
+ RS1  = 135.62
+ RS2  = 135.62
+ RO1  = 47
+ RO2  = 28
+ RP   = 2.48E+05
+ VD   = 1.108043
+ VS   = 1.10814311
+ VOS  = 3.86802E-03
+ VRD  = 2.50E-01
+ L_VAL= 8.00E-07
+ W_VAL= 6.40E-06

.ends NJU7042_s
*$
